* C:\Users\jnie221\OneDrive - The University of Auckland\Documents\GitHub\LabSensors\Lab1_Sensors\Lab1_Spice\Lab1_Sensors.asc
* Generated by LTspice 26.0.1 for Windows.
Vsupply2 V2ac 0 SINE(0 1 500)
R2load N003 0 25
L2load V2ac N003 4mH
V1Adc N001 0 14V
R1AS N002 N001 14
R1AL 0 N002 14
V1Bac N004 0 SINE(0 19.7989899 500)
R1BL 0 N004 12.5
V1Cac N006 0 SINE(0 19.7989899 500)
L1C N007 0 4mH
C1D N008 0 25.3µ
I1Dac 0 N008 SINE(0 1.56977705 500)
Vsupply Vac 0 SINE(0 1 500)
Rload N005 Vis 25
Lload Vac N005 4mH
Rs Vis 0 0.1
Ra Vac Vvs 100k
Rb Vvs 0 0.1k
R1 N007 N006 0.2
R2 N008 0 790
* Part 1A
* Part 1B
* *********************************************************\nELECTENG 209 - Lab 1 (Rev1.1)\nModels required for the Lab 1 provided as a starting point.\nDuleepa J Thrimawithana\n28/05/2021\n*********************************************************
* Part 2
* Notes: \n- Set offset and amplitude of the AC source to produce a sinusoidal\n  voltage (Note: Magnitude varies between 12.6-15.4Vrms)\n- Rload is the variable resistor in your load which changes \n  from appx. 5-105 ohms.
* Load \n(2.5VA-7.5VA)
* Simulation Commands\n- 'Stop Time' set to 0.1s & 'Maximum Time Step' not set\n- Change these settings as needed for the lab
* Part 1C
* Notes: \n- Set offset and amplitude of the AC source to produce a 14Vrms \n  sinusoidal voltage
.tran 0 0.4 0 0.0001
* Notes: \n- Set offset and amplitude of the AC source to produce a 14Vrms \n  sinusoidal voltage\n- For Q1.6 set 'Series Resistance' to 0.2 Ohms (or add external R)
* Part 1D
* Notes: \n- Set offset and amplitude of the AC source to produce a 1.11Arms \n  sinusoidal current\n- For Q1.6 set the 'Parallel Resistance' to 790 Ohms (or add external R)
* Part 3 & 4
* Notes: \n- Change Rs, Ra and Rb as per answers to Q3.1 & Q4.1\n- Set offset and amplitude of the AC source to produce a sinusoidal\n  voltage (Note: Magnitude varies between 12.6-15.4Vrms)\n- Rload is the variable resistor in your load which changes \n  from appx. 5-105 ohms.
* Load \n(2.5VA-7.5VA)
* Current Sens \n(Pmax=?)
* Voltage Sens\n(Vvs(max)=?)
.backanno
.end
